US08372842B2
TFA (1 mL) was added to tert-butyl 4-(3-(2-tert-butoxyethoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.080 g, 0.148 mmol) in DCM (1 mL) and stirred at room temperature for 4 hours. The reaction was then concentrated to dryness and dried under vacuum for 3 hours. TFA (2 mL) was then added, and the mixture was heated at 100° C. in a sealed tube for 18 hours. The reaction was then cooled to room temperature and concentrated to dryness. The resulting residue was dissolved in DCM (2 mL), and HCl in ether (1 mL, 2N) was added. The resulting solid was collected by filtration to give 2-(4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)ethanol dihydrochloride (0.050 g, 100%).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(3-(2-tert-butoxyethoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.148 mmol, 0.080 g | C(C)(C)(C)OCCOC1=NN(C2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C29H41N5O5
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)ethanol dihydrochloride | 0.050 g, 100% | Cl.Cl.N1(CCNCC1)C1=C2C(=NC=C1)NN=C2OCCO | InChI=1S/C12H17N5O2.2ClH/c18-7-8-19-12-10-9(17-5-3-13-4-6-17)1-2-14-11(10)15-16-12;;/h1-2,13,18H,3-8H2,(H,14,15,16);2*1H
